US07030118B2
C) 3-Benzyl-7-chloro-2-(2-dimethylamino-vinyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one
A mixture of 3-benzyl-7-chloro-2-methyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one (1.60 g, 5.85 mmol), N,N-dimethylformamide dimethyl acetal (5.6 mL, 39.6 mmol) and MgSO4 (5.0 g, 41.5 mmol) in DMF (20 mL) was sealed under nitrogen and heated at 145° C. overnight. The reaction mixture was cooled to 0° C., poured into ice water and stirred for 1 h. The solid was collected and washed with water, dried under vaccum over P2O5 to give the title compound (1.84 g, 96%): 1H NMR (CDCl3) δ 7.50 (d, 1H, J=12.56 Hz), 7.30 (m, 2H), 7.24 (m, 4H), 6.96 (d, 1H, J=4.48 Hz), 6.38 (d, 1H, J=4.68 Hz), 5.27 (s, 2H), 2.83 (s, 3H).

reactant | 3-benzyl-7-chloro-2-methyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 5.85 mmol, 1.60 g | C(C1=CC=CC=C1)N1C(=NN2C(C1=O)=CC=C2Cl)C | C14H12ClN3O
reactant | N,N-dimethylformamide dimethyl acetal | 39.6 mmol, 5.6 mL | COC(N(C)C)OC | C5H13NO2
reactant | MgSO4 | 41.5 mmol, 5.0 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-Benzyl-7-chloro-2-(2-dimethylamino-vinyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 1.84 g, 96% | C(C1=CC=CC=C1)N1C(=NN2C(C1=O)=CC=C2Cl)C=CN(C)C | C17H17ClN4O
